US07534797B2
(4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidine-1-carboxylic acid ethylamide)
1-(2-Phenylquinolin-7-yl)-3-(piperidin-4-ylmethyl)-imidazo-[1,5-a]-pyrazin-8-amine (110.00 mg, 0.25 mmol) in a dried 15 mL round-bottom flask was dissolved in 2.00 mL of CH2Cl2. At four 15 min. increments, 10 μL (0.47 equiv), 5 μL (0.24 equiv), 2.1 μL (0.1 equiv) and 2.1 μL (0.1 equiv) of ethyisocyanate were added dropwise, respectfully. The crude product was purified by 5 g Jones silica gel (wetted with 100% CH2Cl2; dry loaded with silica gel, eluted with 2% (7N NH3) in MeOH/CH2Cl2 5% (7N NH3) in MeOH/CH2Cl2) and afforded the desired product; 1H NMR (400 MHz, CHLOROFORM-d) δ 8.41 (1 H, d, J=1.64), 8.29 (1H, d, J=8.38), 8.20 (2H, dd, J=1.52, J=1.10), 7.97 (2H, m), 7.87 (1H, dd, J=1.71, J=1.71), 7.53 (4H, m), 7.24 (1H, d, J=5.26), 7.08 (1H, d, J=5.23), 4.38 (1H, t), 3.97 (2H, d, J=13.44), 3.28 (2H, m), 2.96 (2H, d, J=7.12), 2.79 (2H, t), 2.20 (1H, m), 1.80 (2H, d, J=10.60), 1.36 (2H, m); MS (ES+): m/z 506.07/507.08 (50/25) [MH+]; HPLC: tR=2.17 min (OpenLynx, polar—5 min).

reactant | 1-(2-Phenylquinolin-7-yl)-3-(piperidin-4-ylmethyl)-imidazo-[1,5-a]-pyrazin-8-amine | 0.25 mmol, 110.00 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=1N=C(N2C1C(=NC=C2)N)CC2CCNCC2 | C27H26N6
reactant | ethyisocyanate | 2.1 μL, 0.1 equiv | C(C)N=C=O | C3H5NO
solvent | CH2Cl2 | 2.00 mL | C(Cl)Cl | CH2Cl2
product | 4-[8-Amino-1-(2-phenyl-quinolin-7-yl)-imidazo[1,5-a]pyrazin-3-ylmethyl]-piperidine-1-carboxylic acid ethylamide | C(C)NC(=O)N1CCC(CC1)CC1=NC(=C2N1C=CN=C2N)C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2 | C30H31N7O
